US08236808B2
Step 4: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-pentyl)-amide hydrochloride
To a solution of ((S)-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-butyl)-carbamic acid tert-butyl ester (1.30 g, 3.49 mmol) in 1,4-dioxane (20 mL) is added HCl (50 mL of a 4 M solution in 1,4-dioxane, 200 mmol) and the reaction mixture is stirred at RT for 16 h. The reaction mixture is concentrated in vacuo and the yellow solid obtained is triturated with diethyl ether; the diethyl ether layer is decanted and the product is dissolved in a minimal volume of MeOH and is precipitated by the addition of diethyl ether. The solvent is decanted and the resulting solid is dried under vacuum to afford the title compound.

reactant | ((S)-1-{[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-methyl}-butyl)-carbamic acid tert-butyl ester | 3.49 mmol, 1.30 g | C(C)(C)(C)OC(N[C@@H](CCC)CNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C15H25ClN6O3
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid ((S)-2-amino-pentyl)-amide hydrochloride | Cl.N[C@H](CNC(=O)C1=NC(=C(N=C1N)N)Cl)CCC | InChI=1S/C10H17ClN6O.ClH/c1-2-3-5(12)4-15-10(18)6-8(13)17-9(14)7(11)16-6;/h5H,2-4,12H2,1H3,(H,15,18)(H4,13,14,17);1H/t5-;/m0./s1
